US08106215B2
5-Phenyl-2-methyl-thiazole-4-carboxylic acid methyl ester
prepared by reaction of 3-chloro-3-phenyl-2-oxo-propionic acid methyl ester with thioacetamide. LC-MS: tR=0.88 min; [M+H]+=234.23.

reactant | 3-chloro-3-phenyl-2-oxo-propionic acid methyl ester | COC(C(C(C1=CC=CC=C1)Cl)=O)=O | C10H9ClO3
reactant | thioacetamide | C(C)(=S)N | C2H5NS
product | 5-Phenyl-2-methyl-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1C1=CC=CC=C1)C | C12H11NO2S
